US07723369B2
5-{4-[2-[4-(6-Chloro-pyridin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (63 mg, 0.1 mmol) was treated as described in general procedure L using cyclohexanol (20 mg, 0.2 mmol) to give 5-{4-[2[4-(6-cyclohexyloxy-pyridin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-[4-(6-Chloro-pyridin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.1 mmol, 63 mg | ClC1=CC=C(C=N1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C29H20Cl3N5O3S
reactant | cyclohexanol | 0.2 mmol, 20 mg | C1(CCCCC1)O | C6H12O
product | 5-{4-[2[4-(6-cyclohexyloxy-pyridin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | C1(CCCCC1)OC1=CC=C(C=N1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C35H31Cl2N5O4S
